* ===================================================================
* segdrv_sky130.lib -- segmented gate-driver output stage in REAL
* SKY130 5 V devices.  Drop-in replacement for the ideal-switch
* version in segdrv.lib: same pins, same params, same behaviour.
*
* Sizing, measured not guessed (see pdk/ and scripts/size_slices.py):
*   nfet_g5v0d10v5  W=100u L=0.5u  ->  16.89 ohm   -> m=2 gives  8.45 ohm
*   pfet_g5v0d10v5  W=100u L=0.5u  ->  46.88 ohm   -> m=6 gives  7.81 ohm
* PMOS is 2.78x weaker for the same width, so the pull-up bank is 3x
* the area of the pull-down bank for equal strength.  That asymmetry is
* a real cost and belongs in the report.
*
* Total device width: pull-up 8x6x100u = 4800u, pull-down 8x2x100u =
* 1600u, clamp 12x100u = 1200u.  ~7.6 mm of gate width in all.
*
* PREDRIVERS ARE BEHAVIOURAL (B-sources mapping logic to the rails).
* The output stage is the contribution; a real predriver chain adds
* delay and its own shoot-through window and is the next step.
* ===================================================================

* Predriver comparisons are SMOOTHED: v(x,ref)>0.5 is a hard threshold on
* the difference of two nodes that both swing ~100 V on the high side.
* Numerical jitter in that difference makes the gates chatter.  A tanh of
* width 50 mV keeps the same logic levels without the discontinuity.
.subckt SEGDRV_SKY130 pu pd clk out vp vn ref
+ params: npu=8 npd=8 wn=100u wp=100u lch=0.5u mn=2 mp=6 mclk=12 rpre=20

* ---- pull-up bank: PMOS, gate to vn = ON, gate to vp = OFF -------
* gate_i = vp + enable_i * (pu high) * (vn - vp)
Bpg1 pg1_d 0 V={v(vp)+({npu>=1 ? 1:0})*(0.5*(1+tanh((v(pu,ref)-0.5)/0.05)))*(v(vn)-v(vp))}
Bpg2 pg2_d 0 V={v(vp)+({npu>=2 ? 1:0})*(0.5*(1+tanh((v(pu,ref)-0.5)/0.05)))*(v(vn)-v(vp))}
Bpg3 pg3_d 0 V={v(vp)+({npu>=3 ? 1:0})*(0.5*(1+tanh((v(pu,ref)-0.5)/0.05)))*(v(vn)-v(vp))}
Bpg4 pg4_d 0 V={v(vp)+({npu>=4 ? 1:0})*(0.5*(1+tanh((v(pu,ref)-0.5)/0.05)))*(v(vn)-v(vp))}
Bpg5 pg5_d 0 V={v(vp)+({npu>=5 ? 1:0})*(0.5*(1+tanh((v(pu,ref)-0.5)/0.05)))*(v(vn)-v(vp))}
Bpg6 pg6_d 0 V={v(vp)+({npu>=6 ? 1:0})*(0.5*(1+tanh((v(pu,ref)-0.5)/0.05)))*(v(vn)-v(vp))}
Bpg7 pg7_d 0 V={v(vp)+({npu>=7 ? 1:0})*(0.5*(1+tanh((v(pu,ref)-0.5)/0.05)))*(v(vn)-v(vp))}
Bpg8 pg8_d 0 V={v(vp)+({npu>=8 ? 1:0})*(0.5*(1+tanh((v(pu,ref)-0.5)/0.05)))*(v(vn)-v(vp))}
XP1 out pg1 vp vp sky130_fd_pr__pfet_g5v0d10v5 W={wp} L={lch} nf=1 m={mp}
XP2 out pg2 vp vp sky130_fd_pr__pfet_g5v0d10v5 W={wp} L={lch} nf=1 m={mp}
XP3 out pg3 vp vp sky130_fd_pr__pfet_g5v0d10v5 W={wp} L={lch} nf=1 m={mp}
XP4 out pg4 vp vp sky130_fd_pr__pfet_g5v0d10v5 W={wp} L={lch} nf=1 m={mp}
XP5 out pg5 vp vp sky130_fd_pr__pfet_g5v0d10v5 W={wp} L={lch} nf=1 m={mp}
XP6 out pg6 vp vp sky130_fd_pr__pfet_g5v0d10v5 W={wp} L={lch} nf=1 m={mp}
XP7 out pg7 vp vp sky130_fd_pr__pfet_g5v0d10v5 W={wp} L={lch} nf=1 m={mp}
XP8 out pg8 vp vp sky130_fd_pr__pfet_g5v0d10v5 W={wp} L={lch} nf=1 m={mp}

* ---- pull-down bank: NMOS, gate to vp = ON, gate to vn = OFF ----
Bng1 ng1_d 0 V={v(vn)+({npd>=1 ? 1:0})*(0.5*(1+tanh((v(pd,ref)-0.5)/0.05)))*(v(vp)-v(vn))}
Bng2 ng2_d 0 V={v(vn)+({npd>=2 ? 1:0})*(0.5*(1+tanh((v(pd,ref)-0.5)/0.05)))*(v(vp)-v(vn))}
Bng3 ng3_d 0 V={v(vn)+({npd>=3 ? 1:0})*(0.5*(1+tanh((v(pd,ref)-0.5)/0.05)))*(v(vp)-v(vn))}
Bng4 ng4_d 0 V={v(vn)+({npd>=4 ? 1:0})*(0.5*(1+tanh((v(pd,ref)-0.5)/0.05)))*(v(vp)-v(vn))}
Bng5 ng5_d 0 V={v(vn)+({npd>=5 ? 1:0})*(0.5*(1+tanh((v(pd,ref)-0.5)/0.05)))*(v(vp)-v(vn))}
Bng6 ng6_d 0 V={v(vn)+({npd>=6 ? 1:0})*(0.5*(1+tanh((v(pd,ref)-0.5)/0.05)))*(v(vp)-v(vn))}
Bng7 ng7_d 0 V={v(vn)+({npd>=7 ? 1:0})*(0.5*(1+tanh((v(pd,ref)-0.5)/0.05)))*(v(vp)-v(vn))}
Bng8 ng8_d 0 V={v(vn)+({npd>=8 ? 1:0})*(0.5*(1+tanh((v(pd,ref)-0.5)/0.05)))*(v(vp)-v(vn))}
XN1 out ng1 vn vn sky130_fd_pr__nfet_g5v0d10v5 W={wn} L={lch} nf=1 m={mn}
XN2 out ng2 vn vn sky130_fd_pr__nfet_g5v0d10v5 W={wn} L={lch} nf=1 m={mn}
XN3 out ng3 vn vn sky130_fd_pr__nfet_g5v0d10v5 W={wn} L={lch} nf=1 m={mn}
XN4 out ng4 vn vn sky130_fd_pr__nfet_g5v0d10v5 W={wn} L={lch} nf=1 m={mn}
XN5 out ng5 vn vn sky130_fd_pr__nfet_g5v0d10v5 W={wn} L={lch} nf=1 m={mn}
XN6 out ng6 vn vn sky130_fd_pr__nfet_g5v0d10v5 W={wn} L={lch} nf=1 m={mn}
XN7 out ng7 vn vn sky130_fd_pr__nfet_g5v0d10v5 W={wn} L={lch} nf=1 m={mn}
XN8 out ng8 vn vn sky130_fd_pr__nfet_g5v0d10v5 W={wn} L={lch} nf=1 m={mn}

* ---- predriver output impedance -------------------------------
* The predrivers are behavioural sources; without a real output
* impedance they drive the slice gate capacitance from zero ohms,
* which is both unphysical and numerically stiff when the whole
* high-side driver slews 100 V with the switch node.
Rpg1 pg1_d pg1 {rpre}
Rpg2 pg2_d pg2 {rpre}
Rpg3 pg3_d pg3 {rpre}
Rpg4 pg4_d pg4 {rpre}
Rpg5 pg5_d pg5 {rpre}
Rpg6 pg6_d pg6 {rpre}
Rpg7 pg7_d pg7 {rpre}
Rpg8 pg8_d pg8 {rpre}
Rng1 ng1_d ng1 {rpre}
Rng2 ng2_d ng2 {rpre}
Rng3 ng3_d ng3 {rpre}
Rng4 ng4_d ng4 {rpre}
Rng5 ng5_d ng5 {rpre}
Rng6 ng6_d ng6 {rpre}
Rng7 ng7_d ng7 {rpre}
Rng8 ng8_d ng8 {rpre}
Rcg cg_d cg {rpre}

* ---- active Miller clamp: one strong NMOS, separately timed -----
Bcg cg_d 0 V={v(vn)+(0.5*(1+tanh((v(clk,ref)-0.5)/0.05)))*(v(vp)-v(vn))}
XNC out cg vn vn sky130_fd_pr__nfet_g5v0d10v5 W={wn} L={lch} nf=1 m={mclk}

.ends SEGDRV_SKY130
