* ===================================================================
* zhangdrv.lib -- BASE PAPER driver, implemented for comparison
*
* Implements the premise of:
*   Zhang, Yu, Leng, Cui, Deng and Ng, "A Segmented Gate Driver for
*   E-mode GaN HEMTs with Simple Driving Strength Pattern Control,"
*   Proc. IEEE ISPSD, 2020, pp. 102-105.  Xplore 9170108.
*
* WHAT THEIR DRIVER DOES, AND WHAT THIS REPRODUCES
* A segmented output stage on E-mode GaN: SEVEN slices whose engagement
* follows a driving-strength PATTERN across the switching edge, with the
* pattern timing in the 0.5-5 ns range. The distinguishing claim is in
* the word "Simple": the pattern is selected by ONE external bias
* resistor rather than by per-field digital control. That single-knob
* pattern selection is the paper's contribution and is what this file
* implements -- NSEG slices engage first, the remaining 7-NSEG join
* after TSTEP, and both NSEG and TSTEP are tied to the one bias setting.
*
* WHAT IT DELIBERATELY DOES NOT HAVE -- these are OUR additions, and
* leaving them out is the whole point of building this comparison:
*   - no active Miller clamp
*   - no negative off-bias rail  (vn is tied to ref by the testbench)
*   - no independently programmable fields: one resistor sets the whole
*     pattern, where we emit 6 fields from an FPGA
*
* WHAT IS MODELLED VS WHAT IS INFERRED
* Modelled from the paper as cited: seven slices, staged pattern across
* the edge, pattern timing 0.5-5 ns, one-knob selection, no clamp, no
* negative rail. INFERRED, because the ISPSD paper is 4 pages and does
* not give slice sizing: that the slices are equal-sized and that the
* stage splits NSEG / 7-NSEG. Both are stated here rather than hidden,
* and neither favours our result -- equal slices and a two-stage split
* are the most favourable simple reading of "pattern control".
*
* Built on the same SWP switch model and the same runit as segdrv.lib so
* the two drivers differ ONLY in their control scheme, never in their
* output-stage physics. Any difference in the measured numbers is
* therefore attributable to the control, which is the claim the
* comparison has to support.
*
* Pins:  pu  pd  seg  out  vp  vn  ref
*   pu   : logic high => pull up   (referenced to ref)
*   pd   : logic high => pull down (referenced to ref)
*   seg  : pattern step. Low = first stage (NSEG slices engaged),
*          high = second stage (all 7 engaged). The testbench generates
*          the step so its timing is visible in the deck, not buried.
*   ref  : local logic/driver ground (0 for low side, SW for high side)
* ===================================================================

* Same switch model as segdrv.lib -- identical output-stage physics.
.model SWPZ SW(Ron=0.01 Roff=1e9 Vt=0.5 Vh=0.05)

.subckt ZHANGDRV pu pd seg out vp vn ref params: nseg=2 runit=8

* ---- stage select ------------------------------------------------
* sa is high for the whole edge (first-stage slices, always engaged).
* sb follows seg, so the remaining slices join at the pattern step.
Vsa sa ref DC 1
Ssb  nsb ref seg ref SWPZ
Rsb  nsb ref 1meg
Bsb  sb ref V = {v(seg)}

* ---- pull-up bank : 7 slices -------------------------------------
* Slice i is in the FIRST stage if i <= nseg, otherwise it waits for
* the pattern step. Enabling is by series resistance exactly as in
* segdrv.lib, so the two stages are electrically comparable.
Spu1 vp nu1 pu ref SWPZ
Rpu1 nu1 out {runit + (1<=nseg ? 0 : 1e9)}
Spu2 vp nu2 pu ref SWPZ
Rpu2 nu2 out {runit + (2<=nseg ? 0 : 1e9)}
Spu3 vp nu3 pu ref SWPZ
Rpu3 nu3 out {runit + (3<=nseg ? 0 : 1e9)}
Spu4 vp nu4 pu ref SWPZ
Rpu4 nu4 out {runit + (4<=nseg ? 0 : 1e9)}
Spu5 vp nu5 pu ref SWPZ
Rpu5 nu5 out {runit + (5<=nseg ? 0 : 1e9)}
Spu6 vp nu6 pu ref SWPZ
Rpu6 nu6 out {runit + (6<=nseg ? 0 : 1e9)}
Spu7 vp nu7 pu ref SWPZ
Rpu7 nu7 out {runit + (7<=nseg ? 0 : 1e9)}

* second-stage pull-up slices: gated by the pattern step
Spu1b vp nu1b pu ref SWPZ
Sgu1b nu1b nu1c seg ref SWPZ
Rpu1b nu1c out {runit + (1>nseg ? 0 : 1e9)}
Spu2b vp nu2b pu ref SWPZ
Sgu2b nu2b nu2c seg ref SWPZ
Rpu2b nu2c out {runit + (2>nseg ? 0 : 1e9)}
Spu3b vp nu3b pu ref SWPZ
Sgu3b nu3b nu3c seg ref SWPZ
Rpu3b nu3c out {runit + (3>nseg ? 0 : 1e9)}
Spu4b vp nu4b pu ref SWPZ
Sgu4b nu4b nu4c seg ref SWPZ
Rpu4b nu4c out {runit + (4>nseg ? 0 : 1e9)}
Spu5b vp nu5b pu ref SWPZ
Sgu5b nu5b nu5c seg ref SWPZ
Rpu5b nu5c out {runit + (5>nseg ? 0 : 1e9)}
Spu6b vp nu6b pu ref SWPZ
Sgu6b nu6b nu6c seg ref SWPZ
Rpu6b nu6c out {runit + (6>nseg ? 0 : 1e9)}
Spu7b vp nu7b pu ref SWPZ
Sgu7b nu7b nu7c seg ref SWPZ
Rpu7b nu7c out {runit + (7>nseg ? 0 : 1e9)}

* ---- pull-down bank : 7 slices, same two-stage pattern ------------
Spd1 nd1 vn pd ref SWPZ
Rpd1 out nd1 {runit + (1<=nseg ? 0 : 1e9)}
Spd2 nd2 vn pd ref SWPZ
Rpd2 out nd2 {runit + (2<=nseg ? 0 : 1e9)}
Spd3 nd3 vn pd ref SWPZ
Rpd3 out nd3 {runit + (3<=nseg ? 0 : 1e9)}
Spd4 nd4 vn pd ref SWPZ
Rpd4 out nd4 {runit + (4<=nseg ? 0 : 1e9)}
Spd5 nd5 vn pd ref SWPZ
Rpd5 out nd5 {runit + (5<=nseg ? 0 : 1e9)}
Spd6 nd6 vn pd ref SWPZ
Rpd6 out nd6 {runit + (6<=nseg ? 0 : 1e9)}
Spd7 nd7 vn pd ref SWPZ
Rpd7 out nd7 {runit + (7<=nseg ? 0 : 1e9)}

Spd1b nd1b vn pd ref SWPZ
Sgd1b nd1c nd1b seg ref SWPZ
Rpd1b out nd1c {runit + (1>nseg ? 0 : 1e9)}
Spd2b nd2b vn pd ref SWPZ
Sgd2b nd2c nd2b seg ref SWPZ
Rpd2b out nd2c {runit + (2>nseg ? 0 : 1e9)}
Spd3b nd3b vn pd ref SWPZ
Sgd3b nd3c nd3b seg ref SWPZ
Rpd3b out nd3c {runit + (3>nseg ? 0 : 1e9)}
Spd4b nd4b vn pd ref SWPZ
Sgd4b nd4c nd4b seg ref SWPZ
Rpd4b out nd4c {runit + (4>nseg ? 0 : 1e9)}
Spd5b nd5b vn pd ref SWPZ
Sgd5b nd5c nd5b seg ref SWPZ
Rpd5b out nd5c {runit + (5>nseg ? 0 : 1e9)}
Spd6b nd6b vn pd ref SWPZ
Sgd6b nd6c nd6b seg ref SWPZ
Rpd6b out nd6c {runit + (6>nseg ? 0 : 1e9)}
Spd7b nd7b vn pd ref SWPZ
Sgd7b nd7c nd7b seg ref SWPZ
Rpd7b out nd7c {runit + (7>nseg ? 0 : 1e9)}

* NOTE: there is deliberately no clamp branch here. segdrv.lib has
* "Sclk out nclk clk ref SWP / Rclk nclk vn {rclamp}". Its absence is
* the comparison.

.ends ZHANGDRV
